data/oMe_Silver.jsonl
{"reaction_id": "NR-337_1-C(F)(F)F_2-C(=O)C_3-C(C)(C)C_4-c2cccs2_5-F","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(C(F)(F)F)c(C(=O)C)c(C(C)(C)C)c(c2cccs2)c1F","N#C[Cu]"],"products_smiles": ["c1(C#N)c(C(F)(F)F)c(C(=O)C)c(C(C)(C)C)c(c2cccs2)c1F"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(C(F)(F)F)c(C(=O)C)c(C(C)(C)C)c(c2cccs2)c1F","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C(F)(F)F)c(C(=O)C)c(C(C)(C)C)c(c2cccs2)c1F","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
{"reaction_id": "NR-105_1-C_2-CC_3-c2cscn2_4-OC_5-C(C)C","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(OC)c(c2cscn2)c(CC)c(C)c1)\\C(=O)OC(C)C"],"products_smiles": ["c1c(C(=O)OC(C)C)[nH]c2c1c(OC)c(c2cscn2)c(CC)c2C"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(OC)c(c2cscn2)c(CC)c(C)c1)\\C(=O)OC(C)C","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C(C)COC(=O)C1C=C2C(=[n]1)c(c(c(c2OC)c2cscn2)CC)C","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OC(C)C)[nH]c2c1c(OC)c(c2cscn2)c(CC)c2C","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
{"reaction_id": "NR-106_1-C(F)(F)F_2-c1occc1_3-C_4-c1ccccc1C","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(C(F)(F)F)(c1occc1)[N+](=O)[O-]","C(C)(c1ccccc1C)=O","[OH-]"],"products_smiles": ["C(C)(c1ccccc1C)(O)C(C(F)(F)F)(c1occc1)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(c1occc1)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(c1ccccc1C)([O-])C(C(F)(F)F)(c1occc1)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(c1ccccc1C)(O)C(C(F)(F)F)(c1occc1)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
